US05620997
6-Morpholin-4-yl-2-(2-piperidin-1-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one
Using the procedure of Example 20, 5.2 g (14.8 mmol) of 4-mercapto-2-morpholin-4-yl-pyrimidine-5-carboxylic acid (2-piperidin-1-yl-ethyl)-amide were treated with 3.81 g (15.0 mmol) of iodine to give 2.6 g of the title compound after recrystallization from aqueous isopropanol, mp 98°-100° C.

reactant | 4-mercapto-2-morpholin-4-yl-pyrimidine-5-carboxylic acid (2-piperidin-1-yl-ethyl)-amide | 14.8 mmol, 5.2 g | N1(CCCCC1)CCNC(=O)C=1C(=NC(=NC1)N1CCOCC1)S | C16H25N5O2S
reactant | iodine | 15.0 mmol, 3.81 g | II | I2
product | 6-Morpholin-4-yl-2-(2-piperidin-1-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one | 2.6 g | N1(CCOCC1)C1=NC=C2C(=N1)SN(C2=O)CCN2CCCCC2 | C16H23N5O2S
